US05034381
The reaction of 2-chloroadenosine with t-butyl 3-[4-(2-aminoethyl)-cyclohexyl]-propionate according to the procedure described in Example 14 yields 2-{2-[4-(2-t-butyoxycarbonyl-ethyl)-cyclohexyl] -ethylamino}-adenosine, [alpha]D25 =-22.3° in methanol, m.p. 118°-122°.

reactant | 2-chloroadenosine | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12ClN5O4
reactant | t-butyl 3-[4-(2-aminoethyl)-cyclohexyl]-propionate | NCCC1CCC(CC1)CCC(=O)OC(C)(C)C | C15H29NO2
product | 2-{2-[4-(2-t-butyoxycarbonyl-ethyl)-cyclohexyl] -ethylamino}-adenosine | C(C)(C)(C)OC(=O)CCC1CCC(CC1)CCNC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C25H40N6O6
